### PR TITLE
[Merged by Bors] - feat(Topology/Homeomorph/Defs): group structure on homeomorphisms

### PR DESCRIPTION
**Pull request by tb65536**
This PR defines the group structure on homeomorphisms.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Homeomorph/Defs.lean [hunk 1]
```diff
@@ -163,6 +163,30 @@ theorem symm_trans_self (h : X ≃ₜ Y) : h.symm.trans h = Homeomorph.refl Y :=
...
+
+@[simp]
+theorem one_apply (x : X) : (1 : X ≃ₜ X) x = x := rfl
+
+theorem inv_def (f : X ≃ₜ X) : f⁻¹ = f.symm := rfl
+
+@[simp]
+theorem inv_apply (f : X ≃ₜ X) (x : X) : f⁻¹ x = f.symm x := rfl
+
+theorem mul_def (f g : X ≃ₜ X) : (f * g) = g.trans f := rfl
```
Comment (themathqueen) [inline Mathlib/Topology/Homeomorph/Defs.lean]:
```suggestion
theorem mul_def (f g : X ≃ₜ X) : f * g = g.trans f := rfl
```

File: Mathlib/Topology/Homeomorph/Defs.lean [hunk 2]
```diff
@@ -163,6 +163,30 @@ theorem symm_trans_self (h : X ≃ₜ Y) : h.symm.trans h = Homeomorph.refl Y :=
   ext
   apply apply_symm_apply
```
Comment (scholzhannah) [inline Mathlib/Topology/Homeomorph/Defs.lean:165]:
```suggestion

@[simps -isSimp]
```
You can do this to generate the lemmas via `simps` but not mark them as simp lemmas.

**Review by scholzhannah — COMMENTED** [review]
Thank you for your PR! 

Do you have an application in mind for this? I currently can't really judge if we would want these lemmas to be simp lemmas because I cannot really imagine where they might be applied. I guess having them be simp lemmas would put them into a form that has more available lemmas. But this could maybe be inconvenient for group theory applications.

**Comment by tb65536** [comment]
This is for formalizing the statement of a theorem in the annals. I guess I was just being cautious in case over-zealous simp lemmas could cause group theory pain down the road, but maybe just leaving it as `@[simps]` for now is fine and we can wait for more substantial downstream applications in the future to see which is better.

**Review by scholzhannah — APPROVED** [review]
Sounds good!

File: Mathlib/Topology/Homeomorph/Defs.lean [hunk 3]
```diff
@@ -163,6 +163,16 @@ theorem symm_trans_self (h : X ≃ₜ Y) : h.symm.trans h = Homeomorph.refl Y :=
...
 
+@[simps]
```
Comment (themathqueen) [inline Mathlib/Topology/Homeomorph/Defs.lean]: Does this generate `mul_def` or `mul_apply`?
If it's `mul_def` then it shouldn't be simp, `mul_apply` should be simp (so you should probably add them back).
Same goes for `one_def` and `inv_def`

Comment (themathqueen) [reply Mathlib/Topology/Homeomorph/Defs.lean]: At least that's what we do for other group instances of bundled maps

Comment (tb65536) [reply Mathlib/Topology/Homeomorph/Defs.lean]: Yeah, it generates the `def` lemmas, not the `apply` lemmas. Ok, I'll add them back :)

File: Mathlib/Topology/Homeomorph/Defs.lean [hunk 4]
```diff
@@ -163,6 +163,30 @@ theorem symm_trans_self (h : X ≃ₜ Y) : h.symm.trans h = Homeomorph.refl Y :=
   ext
   apply apply_symm_apply
 
+instance : Group (X ≃ₜ X) where
```
Comment (themathqueen) [inline Mathlib/Topology/Homeomorph/Defs.lean:167]: Last comment! You could just do what Hannah suggested, i.e.,
```suggestion
@[simps -isSimp]
instance : Group (X ≃ₜ X) where
```
and then remove the `_def` lemmas.

**Review by themathqueen — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by faenuccio** [comment]
Thanks!

bors d+
